### PR TITLE
feat: add `BitVec.(getElem_umod_of_lt, getElem_umod, getLsbD_umod, getMsbD_umod)` 

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.(getElem_umod_of_lt, getElem_umod, getLsbD_umod, getMsbD_umod)`. For the defiition of these theorems we rely on `divRec`, excluding the case where `d=0#w`, which is treated separately because there is no infrastructure to reason about this case within `divRec`. In particular, our implementation follows the mathlib standard [where division by 0 yields 0](https://github.com/leanprover/lean4/blob/c7c1e091c9f07ae6f8e8ff7246eb7650e2740dcb/src/Init/Data/BitVec/Basic.lean#L217), while in [SMTLIB this yields `allOnes`](https://github.com/leanprover/lean4/blob/c7c1e091c9f07ae6f8e8ff7246eb7650e2740dcb/src/Init/Data/BitVec/Basic.lean#L237).

Co-authored by @bollu.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3429,7 +3436,7 @@ theorem shiftLeft_eq_mul_twoPow (x : BitVec w) (n : Nat) :
   simp [getLsbD_shiftLeft, Fin.is_lt, decide_true, Bool.true_and, mul_twoPow_eq_shiftLeft]
 
 /-- 2^i * 2^j = 2^(i + j) with bitvectors as well -/
-theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
+theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3439]:
```suggestion
theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2702,6 +2702,13 @@ theorem not_lt_iff_le {x y : BitVec w} : (¬ x < y) ↔ y ≤ x := by
   constructor <;>
     (intro h; simp only [lt_def, Nat.not_lt, le_def] at h ⊢; omega)
 
+theorem le_zero_eq_zero {x : BitVec w} (hx : x ≠ 0#w) :
+    0#w < x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2706]: The theorem name seems incorrect, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2702,6 +2702,13 @@ theorem not_lt_iff_le {x y : BitVec w} : (¬ x < y) ↔ y ≤ x := by
   constructor <;>
     (intro h; simp only [lt_def, Nat.not_lt, le_def] at h ⊢; omega)
 
+theorem le_zero_eq_zero {x : BitVec w} (hx : x ≠ 0#w) :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:2705]:
```suggestion
theorem zero_lt_of_neq_zero {x : BitVec w} (hx : x ≠ 0#w) :
```

**Comment by tobiasgrosser** [comment]
Thank you. Could you add 1-2 sentences of motivation of why you choose these right-hand-sides that you see here.

**Review by tobiasgrosser — APPROVED** [review]

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1230,4 +1230,41 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+theorem getLsbD_umod {n d : BitVec w}:
+    (umod n d).getLsbD i =
+      if d = 0#w then n.getLsbD i
+      else (divRec w {n, d} (DivModState.init w)).r.getLsbD i := by
+  by_cases hd : d = 0#w
+  · simp [hd]
+  · have := (BitVec.not_le (x := d) (y := 0#w)).mp
+    simp only [le_zero_iff] at this
+    rw [← BitVec.umod_eq_divRec (by simp [hd, this])]
+    simp [hd]
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1257]:
```suggestion
  by_cases hd : d = 0#w
  · simp [hd]
  · have := (BitVec.not_le (x := d) (y := 0#w)).mp
    simp only [le_zero_iff] at this
    rw [← BitVec.umod_eq_divRec (by simp [hd, this])]
    simp [hd]
```

Do we need to duplicate the proof? Can't we rewrite all `getLsbD` into `getElem`s, and then reuse `getElem_umod`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1230,4 +1230,41 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+theorem getMsbD_umod {n d : BitVec w}:
+    (umod n d).getMsbD i =
+      if d = 0#w then n.getMsbD i
+      else (divRec w {n, d} (DivModState.init w)).r.getMsbD i := by
+  by_cases hd : d = 0#w
+  · simp [hd]
+  · have := (BitVec.not_le (x := d) (y := 0#w)).mp
+    simp only [le_zero_iff] at this
+    rw [← BitVec.umod_eq_divRec (by simp [hd, this])]
+    simp [hd]
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1268]: Same question: Can we rewrite all `getMsbD` into `getLsbD` and close the proof?

**Review by bollu — COMMENTED** [review]
LGTM, modulo my comments about proof reuse. It would be nice to not repeat the same proof, as that's a bit brittle.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1230,4 +1230,36 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+theorem getLsbD_umod {n d : BitVec w}:
+    (umod n d).getLsbD i =
+      if d = 0#w then n.getLsbD i
+      else ((divRec w {n, d} (DivModState.init w)).r).getLsbD i := by
+  by_cases hi : i < w
+  · simp only [BitVec.getLsbD_eq_getElem hi, getElem_umod]
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1253]:
```suggestion
  · simp [BitVec.getLsbD_eq_getElem hi, getElem_umod]
```

**Comment by luisacicolini** [comment]
awaiting-review

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1253]: the `only` is actually necessary here

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -1230,4 +1230,36 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
   · simp [of_length_zero]
   · simp [ushiftRightRec_eq]
 
+/- ### umod -/
+
+theorem getElem_umod_of_lt {n d : BitVec w} (hi : i < w) (hd : 0#w < d) :
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1235]:
```suggestion
theorem getElem_umod_of_pos {n d : BitVec w} (hi : i < w) (hd : 0#w < d) :
```

Nit: `0 < _` is generally referred to as `pos` in names, rather than `lt` (at least, I assume the `of_lt` in the name refers to `hd`, since the general `getElem_umod` also has `hi`)

File: src/Init/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean:1253]: That likely means one of the lemmas in the default simp-set is doing something you don't want. You can check which simp lemmas actually fire without the only with `simp?`, and suppose that suggests `simp only [foo, ...]`, you can prevent `foo` from applying by writing `simp [BitVec.getLsbD_eq_getElem hi, getElem_umod, -foo]` to remove `foo` from the simpset for that call.

Note that this is nice to do if the `simp only` version contains a large number of lemmas that we wouldn't have to repeat with `simp [-foo, ...]`, but that does not seem to be the case here, so I'm fine with either spelling (`simp only` or `simp [-foo, ...]`)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -1230,4 +1230,36 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  rw [← BitVec.umod_eq_divRec] <;> simp [hd]
+
+theorem getElem_umod {n d : BitVec w} (hi : i < w) :
+    (umod n d)[i] = if d = 0#w then n[i] else (divRec w {n, d} (DivModState.init w)).r[i] := by
+  by_cases hd : d = 0#w
+  · simp [hd]
+  · have := (BitVec.not_le (x := d) (y := 0#w)).mp
+    simp only [le_zero_iff] at this
+    rw [← BitVec.umod_eq_divRec (by simp [hd, this])]
+    simp [hd]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1246]: Why don't we reuse `getElem_umod_of_(lt/pos)` here? That lemmas seems to describe exactly this case, no?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1246]: so it's actually interesting, using that theorem in the proof seems to only make the proof longer. I guess we don't need `getElem_umod_of_pos` in the first place.

**Review by bollu — APPROVED** [review]
LGTM
